US06951848B2
5-Aminomethyl-2-methyl-1H-indole-3-carboxylic acid benzyl ester, hydrochloride
To a solution of 5-(tert-butoxycarbonylamino-methyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester (1.8 g, 4.6 mmol) in methylene chloride (10 μL) was added 4 M hydrogen chloride in dioxane (1.2 mL, 4.8 mmol). The mixture was stirred at room temperature for 1 hour and the formed solid was then filtered. The product was further purified by recrystallization (ethanol and methylene chloride) to give 950 mg (63%) of titled product as a beige solid: mp 260-261° C.; MS(APCI−): m/z 293.1 (M−H); Anal. Calcd for C18H18N2O2.1.06HCl: C, 64.92; H, 5.77; N, 8.41; Cl, 11.29. Found: C, 64.58; H, 5.79; N, 8.31; Cl, 11.38.

reactant | 5-(tert-butoxycarbonylamino-methyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester | 4.6 mmol, 1.8 g | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CNC(=O)OC(C)(C)C)C | C23H26N2O4
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | dioxane | 4.8 mmol, 1.2 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 10 μL | C(Cl)Cl | CH2Cl2
product | 5-Aminomethyl-2-methyl-1H-indole-3-carboxylic acid benzyl ester, hydrochloride | 950 mg, 63% | Cl.C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CN)C | InChI=1S/C18H18N2O2.ClH/c1-12-17(15-9-14(10-19)7-8-16(15)20-12)18(21)22-11-13-5-3-2-4-6-13;/h2-9,20H,10-11,19H2,1H3;1H
